data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(F)cc(C(=O)C2C3CCC2C3)c1", "products": "COc1cc(F)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1cc(F)cc([C]([O])C2C3CCC2C3)c1", "products": "COc1cc(F)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1cc(F)cc(C([O])=CC2C[CH]CC2)c1", "products": "COc1cc(F)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1cc(F)cc(C(O)=CC2C=CCC2)c1", "products": "COc1cc(F)cc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "BrC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1ccccc1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Br)c2ccccc2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Br)c2ccccc2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Br)c1ccccc1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Br)c1ccccc1", "products": "O=C1CCN2C[C@H](OC(Br)c3ccccc3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(OC)c(Br)c(N(C)C(=O)C2=CCCC2)c1.[Pd]", "products": "COc1cc(OC)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1"}, {"reactants": "COc1cc(OC)[c]([Pd][Br])c(N(C)C(=O)C2=CCCC2)c1", "products": "COc1cc(OC)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C"}, {"reactants": "COc1cc(OC)c2c(c1)C1(CCC[CH]1[Pd][Br])C(=O)N2C", "products": "COc1cc(OC)c2c(c1)C1(C=CCC1)C(=O)N2C.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(F)c1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1C)C(C)C", "products": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1c(F)cccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(F)COC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(F)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(F)O3)cc1", "products": "O=C1C2C1C1(F)OCC2(F)O1"}, {"reactants": "O=C1C2C1C1(F)OCC2(F)O1.[O-]C", "products": "COC1([O-])C2C1C1(F)OCC2(F)O1"}, {"reactants": "COC1([O-])C2C1C1(F)OCC2(F)O1.CO", "products": "COC(=O)C1CC2(F)COC1(F)O2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c(OC)c1", "products": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(OC)c1"}, {"reactants": "COc1ccc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c(OC)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(OC)cc1OC", "products": "COc1ccc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c(OC)c1"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)c(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(C)c1)C(C)C", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1Cl"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1Cl", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1Cl"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1Cl"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1Cl", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)ccc1Cl.[Rh]"}]}
